US09216980B2
Step 1: 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid hydrazide
A solution of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (582 mg, 1.90 mmol) and hydrazine hydrate (2.29 mL, 47.0 mmol) in ethanol (4.6 mL) was heated under reflux in an inert atmosphere. After 1 h, the reaction mixture was allowed to cool to ambient temperature. The resultant precipitate was collected by filtration, washed with ethanol, and left to air-dry to afford the title compound as a tan-yellow solid.

reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 1.90 mmol, 582 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)Br | C12H8BrN3O2
reactant | hydrazine hydrate | 47.0 mmol, 2.29 mL | O.NN
solvent | ethanol | 4.6 mL | C(C)O | C2H6O
product | 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid hydrazide | BrC1=CC2=C(NC3=C2C=C(N=C3)C(=O)NN)N=C1 | C11H8BrN5O
